US07507726B2
(4S)-3-[(2R)-2-Hydroxymethyl-7-octenoyl]-4-benzyl-1,3-oxazolidin-2-one
To a solution of (4S)-3-(7-octenoyl)-4-benzyl-1,3-oxazolidin-2-one (2.24 g, 7.59 mmol) and titanium (IV) chloride (1M in dichloromethane, 8.0 mL, 7.97 mmol) in dichloromethane (35 mL) at 0° C. was added dropwise diisopropylethylamine (1.5 mL, 8.35 mmol). After stirring at 0° C. for 1 hour, the resulting titanium enolate was then reacted with a solution of trioxane (0.82 g, 9.11 mmol) in dichloromethane (7 mL), followed by the addition of a solution of titanium (IV) chloride (1M in dichloromethane, 8.0 mL, 7.97 mmol). The reaction mixture was then stirred at 0° C. for 4 h. The reaction mixture was then quenched with saturated ammonium chloride (50 mL). The aqueous layer was extracted with dichloromethane (100 mL×2). The organic extracts were washed with brine, and dried over MgSO4, filtered and concentrated in vacuo to yield the title compound. MH+332.

reactant | (4S)-3-(7-octenoyl)-4-benzyl-1,3-oxazolidin-2-one | 7.59 mmol, 2.24 g | C(CCCCCC=C)(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C18H23NO3
reactant | diisopropylethylamine | 8.35 mmol, 1.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trioxane | 9.11 mmol, 0.82 g | O1OOCCC1 | C3H6O3
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
catalyst | titanium (IV) chloride | 7.97 mmol, 1M, 8.0 mL | [Ti](Cl)(Cl)(Cl)Cl
catalyst | titanium (IV) chloride | 7.97 mmol, 1M, 8.0 mL | [Ti](Cl)(Cl)(Cl)Cl
product | (4S)-3-[(2R)-2-Hydroxymethyl-7-octenoyl]-4-benzyl-1,3-oxazolidin-2-one | OC[C@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)CCCCC=C | C19H25NO4
